US08609731B2
6-Methoxyisochromen-1-one
A solution of 6-methoxyisochroman-1-one (15.1 g), N-bromosuccinimide (NBS; 27 g) and benzoyl peroxide (500 mg) in tetrachloromethane (250 ml) was heated to reflux while irradiating with light for 3 hours. The mixture was filtered and the filtrate was concentrated. The residue was dissolved in triethylamine (100 ml) and stirred at room temperature for 48 hours. The reaction mixture was partitioned between water and ethyl acetate and adjusted to pH 1 with concentrated hydrochloric acid. The organic phase was removed, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel. The product was thus obtained with the molecular weight of 176.17 (C10H8O3); MS (ESI): 177 (M+H+).

reactant | 6-methoxyisochroman-1-one | 15.1 g | COC=1C=C2CCOC(C2=CC1)=O | C10H10O3
reactant | N-bromosuccinimide | 27 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 500 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachloromethane | 250 ml | ClC(Cl)(Cl)Cl | CCl4
product | 6-Methoxyisochromen-1-one | COC=1C=C2C=COC(C2=CC1)=O | C10H8O3
